US06469042B1
Preparation of 2-Bromo4-chloro(2,2-difluoroethoxy)benzene
A stirred suspension of 2-bromo-4-chlorophenol (2.07 g, 10 mmol), 2-bromo-1,1-difluoroethane (1.74 g, 12 mmol) and potassium carbonate (1.65 g, 12 mmol) in 2-butanone (10 mL) was heated at reflux temperature for 16 hours. The suspension was allowed to cool and then filtered. The filtrate was concentrated and distilled in vacuo to afford the title compound as a colorless oil (2.28 g, 84%): bp 78-80° C. @ 0.1 torr

reactant | 2-bromo-4-chlorophenol | 10 mmol, 2.07 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | 2-bromo-1,1-difluoroethane | 12 mmol, 1.74 g | BrCC(F)F | C2H3BrF2
reactant | potassium carbonate | 12 mmol, 1.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 10 mL | CC(CC)=O | C4H8O
product | 2-Bromo4-chloro(2,2-difluoroethoxy)benzene | 2.28 g, 84% | BrC1=C(C=CC(=C1)Cl)OCC(F)F | C8H6BrClF2O
